US08754231B2
A mixture of 4-amino-3-chloro-5,6-difluoropicolinonitrile (70 g, 0.37 mol) and 33% HBr in acetic acid (700 mL) was heated to 120° C. in a sealed, stirred reaction vessel for 2 h. After cooling to room temperature, the supernatant was separated from a large amount of a tan solid and concentrated under vacuum to give a tacky dark residue. This residue was taken into CH3OH (600 mL) and added back to the tan solids that remained in the pressure reactor. To this mixture was slowly added concentrated sulfuric acid (H2SO4; 40 g, 0.41 mol), and the reactor was again sealed and heated to 110° C. for 6 h. The cooled reaction mixture was slowly poured into satd aq sodium carbonate (Na2CO3; 2 L) and Et2O (1 L). The ether extract was dried over MgSO4, filtered and concentrated to a tan solid. This solid was purified by column chromatography to give methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate (78 g, 75%) as fine white crystals: mp 119-120° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.28 (s, 2H), 3.87 (s, 3H); 13C NMR (101 MHz, DMSO-d6) δ 163.54 (s, C═O), 144.63 (d, J=256.3 Hz, C5), 142.60 (d, J=4.9 Hz, C2), 140.55 (d, J=13.6 Hz, C4), 125.61 (d, J=21.0 Hz, C6), 116.65 (s, C3), 53.2 (s, OMe); 19F NMR (376 MHz, CDCl3) δ −128.86; EIMS m/z 284 ([M]+). Anal. Calcd for C7H5BrClFN2O2: C, 29.66; H, 1.78; N, 9.88. Found: C, 30.03; H, 1.80; N, 9.91.

reactant | 4-amino-3-chloro-5,6-difluoropicolinonitrile | 0.37 mol, 70 g | NC1=C(C(=NC(=C1F)F)C#N)Cl | C6H2ClF2N3
reactant | HBr | Br | BrH
reactant | sulfuric acid | 0.41 mol, 40 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 2 L | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 700 mL | C(C)(=O)O | C2H4O2
solvent | Et2O | 1 L | CCOCC | C4H10O
solvent | CH3OH | 600 mL | CO | CH4O
product | methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate | 78 g, 75% | NC1=C(C(=NC(=C1F)Br)C(=O)OC)Cl | C7H5BrClFN2O2
